US06790860B2
A solution of 400 mg (0.86 mmol) (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine in 15 ml CH2Cl2 with 0.3 ml (2.2 mmol) trimethylsilylisocyanate and a catalytic amount of DMAP was stirred over night. The reaction was extracted with aqueous 10% KHSO4/EtOAc (3×) and the organic phase was dried over Na2SO4. Crystallization (CH2Cl2/MeOH/Et2O) gave 205 mg (47%) (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid amide, MS: 509 (MH+).

reactant | (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine | 0.86 mmol, 400 mg | C(C1=CC=CC=C1)OC[C@H]1NC[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31NOS
reactant | trimethylsilylisocyanate | 2.2 mmol, 0.3 ml | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid amide | 205 mg, 47% | C(C1=CC=CC=C1)OC[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N | C32H32N2O2S
